US07691879B2
Step B 3-cyano-6-methoxy-4-phenylisoquinoline-1-carboxylic acid.
To a suspension of 6-methoxy-4-phenylisoquinoline-1,3-dicarbonitrile in 25 mL EtOH was added 2(N) aq NaOH (15 mL), and the reaction was stirred at 40° C. for 2 h. Then concentrated aq HCl (18 mL) and water (29 mL) were added to the reaction mixture and heated at 100° C. for 16 h. After cooling to rt, it was extracted with DCM (4×). The combined organic layers were dried over Na2SO4 and concentrated to a tan solid (470 mg, 85%). This crude product was used without further purification.

reactant | 6-methoxy-4-phenylisoquinoline-1,3-dicarbonitrile | COC=1C=C2C(=C(N=C(C2=CC1)C#N)C#N)C1=CC=CC=C1 | C18H11N3O
reactant | NaOH | 15 mL | [OH-].[Na+]
reactant | HCl | 18 mL | Cl | ClH
reactant | water | 29 mL | O | H2O
solvent | EtOH | 25 mL | CCO | C2H6O
product | 3-cyano-6-methoxy-4-phenylisoquinoline-1-carboxylic acid | C(#N)C=1N=C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)C(=O)O | C18H12N2O3
